US08729061B2
Step C4: (2S,4R)-methyl 4-(2-chlorophenylsulfonyl)pyrrolidine-2-carboxylate
Under an atmosphere of argon, (2S,4R)-1-tert-butyl 2-methyl 4-(2-chlorophenylsulfonyl)pyrrolidine-1,2-dicarboxylate (5.76 g, 14.3 mmol, Eq: 1.00) was combined with dichloromethane (35.0 ml) to give a light yellow solution. At 0° C., 2,2,2-trifluoroacetic acid (24.4 g, 16.5 ml, 214 mmol, Eq: 15.0) was added dropwise. The reaction was warmed up to room temperature and stirred for 3 h. The reaction mixture was evaporated to dryness. The crude material was dissolved in 100 ml dichloromethane, then extracted with 50 ml satd. Na2CO3 solution and 50 ml H2O. The aqueous layers were washed with 40 ml dichloromethane. The organic layer was dried over Na2SO4, filtered, and concentrated in vacuo. The title compound was obtained as a orange viscous oil (4.02 g, 92.8%, MS (m/e)=304.2 [M+H+]).

reactant | (2S,4R)-1-tert-butyl 2-methyl 4-(2-chlorophenylsulfonyl)pyrrolidine-1,2-dicarboxylate | 14.3 mmol, 5.76 g | ClC1=C(C=CC=C1)S(=O)(=O)[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC | C17H22ClNO6S
reactant | 2,2,2-trifluoroacetic acid | 214 mmol, 16.5 ml, 24.4 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 35.0 ml | ClCCl | CH2Cl2
product | (2S,4R)-methyl 4-(2-chlorophenylsulfonyl)pyrrolidine-2-carboxylate | ClC1=C(C=CC=C1)S(=O)(=O)[C@@H]1C[C@H](NC1)C(=O)OC | C12H14ClNO4S
